US04760163
using ethyl 2-chloro-5-isocyanatobenzoate and ethyl 3-aminocrotonate there is obtained ethyl 2-chloro-5-{3-[2-(ethoxycarbonyl)-1-methylvinyl]ureido}-benzoate, using isopropyl 2-chloro-4-fluoro-5-isocyanatobenzoate and ethyl 3-aminocrotonate there is obtained isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-methylvinyl]ureido}benzoate, m.p. 147°-150° C.,

reactant | ethyl 2-chloro-5-isocyanatobenzoate | ClC1=C(C(=O)OCC)C=C(C=C1)N=C=O | C10H8ClNO3
reactant | ethyl 3-aminocrotonate | N\C(=C/C(=O)OCC)\C | C6H11NO2
product | ethyl 2-chloro-5-{3-[2-(ethoxycarbonyl)-1-methylvinyl]ureido}-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)NC(=O)NC(=CC(=O)OCC)C | C16H19ClN2O5
